US08633200B2
Methyl 2-hydroxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
To a solution of 2-hydroxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (6 mg, 0.016 mmol) in methanol (2 mL) was added thionyl chroride (0.0023 mL, 0.032 mmol). The reaction mixture was stirred at 40° C. for 16 hrs. The solvent was evaporated to give the title compound. The crude product was used directly for next step.

reactant | 2-hydroxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.016 mmol, 6 mg | OC(C(=O)O)C=1C(=NC=2N(C1C1=CC=C(C=C1)C)N=C(C2)C2=CC=CC=C2)C | C22H19N3O3
reactant | methanol | 2 mL | CO | CH4O
product | Methyl 2-hydroxy-2-(5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | OC(C(=O)OC)C=1C(=NC=2N(C1C1=CC=C(C=C1)C)N=C(C2)C2=CC=CC=C2)C | C23H21N3O3
